US04980470
Synthesis of 1-cyclopropyl-6-fluoro-1,4-dihydro-8-ethoxy-4-oxo-7-(1-piperazinyl)3-quinolinecarboxylic acid
To a solution of sodium ethoxide prepare from sodium (0.75 g) and absolute ethanol (30 ml) was added 1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid (0.8 g) and the mixture in sealed tube was stirred for 52 hours at 140° to 150° C. and then concentrated. Water (60 ml) was added to the residue, and the solution was adjusted pH 7 with acetic acid and and extracted with chloroform. The chloroform layer was washed with saturated saline solution, dried over anhydrous sodium sulfate and then concentrated. The resulting residue was purified by silica gel column chromatography eluting with chloroform-methanol (2:1)→chloroform-methanol-concentrated aqueous ammonia (20:6:1→10:10:1) and recrystallized from ethanol to give the title compound (75 mg) as light brown prisms, mp 119°-122° C.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 0.75 g | [Na] | Na
reactant | 1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid | 0.8 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CCNCC1)F)=O)C(=O)O | C17H17F2N3O3
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-cyclopropyl-6-fluoro-1,4-dihydro-8-ethoxy-4-oxo-7-(1-piperazinyl)3-quinolinecarboxylic acid | 75 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OCC)N1CCNCC1)F)=O)C(=O)O | C19H22FN3O4
